US07420056B2
951 mg (10.0 mmol) of 2-aminopyrazine were dissolved together with 1.31 g (10.0 mmol) of 1-phenylethylisonitrile and 1.08 ml (10.0 mmol) of 5-bromothiophene-2-carbaldehyde in chloroform (24 ml). After addition of perchloric acid (1.00 ml), the mixture was stirred at RT for 5 d. The mixture was then combined with a sat. aq. sodium carbonate solution and the phases were separated. The aqueous phase was extracted with DCM. The combined organic phases were washed with a sat. aq. sodium carbonate solution and dried over magnesium sulfate, filtered and evaporated under a vacuum. After carrying out column chromatography (EA/DCM 1:1) with the group, 831 mg (2.1 mmol, 21% of theoretical) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1-phenyl-ethyl)-amine were obtained.

reactant | 2-aminopyrazine | 10.0 mmol, 951 mg | NC1=NC=CN=C1 | C4H5N3
reactant | 1-phenylethylisonitrile | 10.0 mmol, 1.31 g | C1(=CC=CC=C1)C(C)[N+]#[C-] | C9H9N
reactant | 5-bromothiophene-2-carbaldehyde | 10.0 mmol, 1.08 ml | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | perchloric acid | 1.00 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 24 ml | C(Cl)(Cl)Cl | CHCl3
product | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1-phenyl-ethyl)-amine | 2.1 mmol, 831 mg, 21% | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(C)C1=CC=CC=C1 | C18H15BrN4S
